.subckt cell_2 300 303 302 
.param area=1, j0=1, jsc=1, j02=1, rs=1, rsh=1

girrad 301 300 302 300 value={(jsc/1000)*v(302)*area}

d1 301 300 diode
.model diode d(is={j0*area})

d2 301 300 diode2
.model diode2 d(is={j02*area}, n=2)

Rs 301 300 {rs}
Rsh 301 302 {rsh}

.ends cell_2